.SubCkt GA342QR7GD101KW01 [_net1] [_net2]
.param K01=1.2538e-10
.param M01=6.0000e+09
.param L02=1.5920e-10
.param M03=3.6527e-01
.param K04=5.0834e-10
.param M04=3.1309e+03
.param K05=4.7195e-09
.param M05=1.8025e+02
.param K06=1.4988e-08
.param M06=4.6243e+00
.param K07=8.1190e-09
.param M07=3.0921e-01
.param L08=1.8444e-10
.param M08=1.2055e+01
.param K09=5.6136e-10
.param L09=2.8072e-11
.param M09=1.0201e+00
.param K10=1.1647e-10
.param L10=5.2518e-11
.param M10=2.7201e+00
.param K11=1.5120e-12
.param L11=1.0412e-09
.param M11=3.0332e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342QR7GD101KW01

.SubCkt GA342QR7GD151KW01 [_net1] [_net2]
.param K01=1.6965e-10
.param M01=6.0000e+09
.param L02=1.3595e-10
.param M03=1.7970e-01
.param K04=1.0596e-09
.param M04=1.5021e+03
.param K05=2.2995e-08
.param M05=1.3843e+01
.param K06=2.8243e-08
.param M06=1.4088e+00
.param K07=5.7768e-09
.param M07=2.1832e-01
.param L08=1.8105e-10
.param M08=2.2751e+00
.param K09=1.3070e-09
.param L09=2.3401e-11
.param M09=1.0316e+00
.param K10=2.7479e-10
.param L10=4.0143e-11
.param M10=2.1519e+00
.param K11=1.3364e-12
.param L11=9.7984e-10
.param M11=3.1298e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342QR7GD151KW01

.SubCkt GA342QR7GD221KW01 [_net1] [_net2]
.param K01=3.0418e-10
.param M01=6.0000e+09
.param L02=2.7842e-10
.param M03=6.1231e-01
.param K04=7.8068e-10
.param M04=5.1209e+03
.param K05=3.1184e-08
.param M05=1.7012e+01
.param K06=1.3179e-08
.param M06=3.8986e+00
.param K07=5.9474e-09
.param M07=1.3380e+00
.param K08=1.9242e-09
.param M08=6.6447e-01
.param K09=2.0848e-12
.param L09=7.1639e-10
.param M09=3.6115e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net2 {K09}
L09 _net0809 _net2 {L09}
R09 _net0809 _net2 {M09}
.ends GA342QR7GD221KW01

.SubCkt GA342QR7GD331KW01 [_net1] [_net2]
.param K01=4.2003e-10
.param M01=6.0000e+09
.param L02=2.8081e-10
.param M03=4.5267e-01
.param K04=1.6669e-09
.param M04=2.3983e+03
.param K05=2.9948e-08
.param M05=1.3751e+01
.param K06=1.2711e-08
.param M06=2.4924e+00
.param K07=2.5752e-09
.param M07=7.7622e-01
.param K08=1.8955e-09
.param L08=3.4242e-11
.param M08=7.3443e-01
.param K09=2.5523e-12
.param L09=7.3496e-10
.param M09=3.3264e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net2 {K09}
L09 _net0809 _net2 {L09}
R09 _net0809 _net2 {M09}
.ends GA342QR7GD331KW01

.SubCkt GA342QR7GD471KW01 [_net1] [_net2]
.param K01=5.7418e-10
.param M01=6.0000e+09
.param L02=2.9638e-10
.param M03=3.4331e-01
.param K04=2.9211e-09
.param M04=1.3686e+03
.param K05=5.4601e-08
.param M05=4.3216e+00
.param K06=1.6472e-08
.param M06=1.0790e+00
.param K07=8.7243e-08
.param M07=8.5125e-01
.param K08=3.4518e-09
.param M08=4.4952e-01
.param K09=1.6670e-09
.param L09=6.3312e-11
.param M09=6.0382e-01
.param K10=4.2201e-10
.param L10=3.7943e-11
.param M10=5.8935e-01
.param K11=2.4233e-12
.param L11=6.1486e-10
.param M11=4.0225e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342QR7GD471KW01

.SubCkt GA342QR7GD681KW01 [_net1] [_net2]
.param K01=6.9104e-10
.param M01=6.0000e+09
.param L02=5.8525e-10
.param M03=3.3217e-01
.param K04=7.0790e-09
.param M04=4.4859e+02
.param K05=1.6679e-07
.param M05=1.7406e+00
.param K06=3.2433e-08
.param M06=1.6357e+00
.param K07=8.7026e-09
.param M07=4.1797e-01
.param K08=4.2221e-09
.param L08=4.9995e-11
.param M08=4.7231e-01
.param K09=6.4601e-10
.param L09=2.3671e-11
.param M09=4.7365e-01
.param K10=6.4079e-12
.param L10=3.2098e-10
.param M10=2.8326e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GA342QR7GD681KW01

.SubCkt GA342QR7GD102KW01 [_net1] [_net2]
.param K01=1.0149e-09
.param M01=6.0000e+09
.param L02=4.2103e-10
.param M03=2.4213e-01
.param K04=1.1846e-08
.param M04=3.3749e+02
.param K05=7.1460e-08
.param M05=5.2558e+00
.param K06=4.1934e-08
.param M06=8.2446e-01
.param K07=1.2440e-08
.param M07=2.3226e-01
.param K08=2.5329e-09
.param L08=1.1504e-10
.param M08=7.3474e-01
.param K09=4.3821e-10
.param L09=4.5590e-11
.param M09=4.5292e-01
.param K10=3.8939e-12
.param L10=4.1958e-10
.param M10=4.1546e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GA342QR7GD102KW01

.SubCkt GA342QR7GD152KW01 [_net1] [_net2]
.param K01=1.5954e-09
.param M01=6.0000e+09
.param L02=3.0021e-10
.param M03=1.8481e-01
.param K04=2.3995e-08
.param M04=2.0975e+02
.param K05=1.8137e-07
.param M05=4.6360e+00
.param K06=9.3266e-08
.param M06=1.2275e+00
.param K07=7.4960e-08
.param M07=2.1081e-01
.param K08=2.3857e-08
.param M08=1.3248e-01
.param L09=1.5281e-10
.param M09=8.6414e-01
.param K10=6.6399e-09
.param L10=5.2287e-11
.param M10=3.1523e-01
.param K11=2.7636e-09
.param L11=2.5460e-11
.param M11=2.2981e-01
.param K12=2.9503e-12
.param L12=5.2884e-10
.param M12=4.2564e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GA342QR7GD152KW01

.SubCkt GA342QR7GF101KW01 [_net1] [_net2]
.param K01=1.3905e-10
.param M01=6.0000e+09
.param L02=1.1523e-10
.param M03=2.6528e-01
.param K04=4.4481e-10
.param M04=3.0454e+03
.param K05=1.1324e-08
.param M05=2.4701e+01
.param K06=2.6052e-08
.param M06=7.9038e-01
.param K07=4.4039e-09
.param M07=2.6057e-01
.param K08=5.2245e-10
.param L08=3.0649e-11
.param M08=1.1958e+00
.param K09=8.9261e-11
.param L09=6.5442e-11
.param M09=3.7165e+00
.param K10=1.2992e-12
.param L10=1.1220e-09
.param M10=1.9545e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net2 {K10}
L10 _net0910 _net2 {L10}
R10 _net0910 _net2 {M10}
.ends GA342QR7GF101KW01

.SubCkt GA342QR7GF151KW01 [_net1] [_net2]
.param K01=1.7900e-10
.param M01=6.0000e+09
.param L02=7.8735e-14
.param M03=1.1777e-01
.param K04=8.9235e-10
.param M04=1.7836e+03
.param K05=1.5479e-08
.param M05=1.5740e+01
.param K06=2.5266e-08
.param M06=8.9191e-01
.param K07=3.4157e-09
.param M07=2.4616e-01
.param L08=1.8724e-10
.param M08=2.3529e+00
.param K09=9.5542e-10
.param L09=3.2239e-11
.param M09=1.2266e+00
.param K10=2.3658e-10
.param L10=4.7249e-11
.param M10=2.1700e+00
.param K11=1.2325e-12
.param L11=1.1126e-09
.param M11=2.7586e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342QR7GF151KW01

.SubCkt GA342DR7GF221KW02 [_net1] [_net2]
.param K01=2.3794e-10
.param M01=6.0000e+09
.param L02=2.7972e-10
.param M03=1.2316e-01
.param K04=1.8815e-09
.param M04=8.4591e+02
.param K05=6.2423e-08
.param M05=3.1870e+00
.param K06=3.8438e-08
.param M06=8.1272e-01
.param K07=7.6629e-09
.param M07=1.6537e-01
.param L08=2.5023e-10
.param M08=4.9838e+00
.param K09=1.5286e-09
.param L09=3.9282e-11
.param M09=1.3349e+00
.param K10=3.5699e-10
.param L10=6.3805e-11
.param M10=2.4278e+00
.param K11=1.7523e-12
.param L11=9.8511e-10
.param M11=1.3735e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342DR7GF221KW02

.SubCkt GA342DR7GF331KW02 [_net1] [_net2]
.param K01=4.4495e-10
.param M01=6.0000e+09
.param L02=5.7682e-14
.param M03=6.5115e-02
.param K04=1.3062e-09
.param M04=3.8530e+03
.param K05=1.1026e-07
.param M05=4.8116e+00
.param K06=1.1665e-07
.param M06=1.9491e+00
.param K07=8.1224e-08
.param M07=3.1854e-01
.param K08=1.2049e-08
.param M08=1.4154e-01
.param L09=1.9632e-10
.param M09=1.2335e+00
.param K10=1.2290e-09
.param L10=8.6863e-11
.param M10=2.3723e+00
.param K11=5.5744e-10
.param L11=7.9154e-11
.param M11=2.6709e+00
.param K12=1.1627e-12
.param L12=1.0180e-09
.param M12=2.9748e+02
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GA342DR7GF331KW02

.SubCkt GA342QR7GF471KW01 [_net1] [_net2]
.param K01=5.7100e-10
.param M01=6.0000e+09
.param L02=2.4247e-10
.param M03=3.7036e-01
.param K04=3.4003e-09
.param M04=9.3391e+02
.param K05=4.1905e-08
.param M05=3.2326e+00
.param K06=1.7579e-07
.param M06=3.0179e+00
.param K07=1.9172e-08
.param M07=8.8320e-01
.param K08=5.3428e-09
.param M08=3.9715e-01
.param K09=1.9300e-09
.param L09=5.9150e-11
.param M09=5.8518e-01
.param K10=2.4658e-10
.param L10=6.4937e-11
.param M10=8.0117e-01
.param K11=2.1083e-12
.param L11=6.1554e-10
.param M11=8.6094e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net2 {K11}
L11 _net1011 _net2 {L11}
R11 _net1011 _net2 {M11}
.ends GA342QR7GF471KW01

.SubCkt GA342QR7GF681KW01 [_net1] [_net2]
.param K01=7.4355e-10
.param M01=6.0000e+09
.param L02=2.3995e-10
.param M03=2.7874e-01
.param K04=7.2993e-09
.param M04=4.3505e+02
.param K05=9.5799e-08
.param M05=8.3067e+00
.param K06=7.7759e-08
.param M06=2.5585e+00
.param K07=2.3910e-08
.param M07=1.0261e+00
.param K08=5.4687e-09
.param M08=3.6552e-01
.param L09=1.7228e-10
.param M09=2.1649e+00
.param K10=2.8583e-09
.param L10=4.8792e-11
.param M10=5.6709e-01
.param K11=4.3977e-10
.param L11=7.2650e-11
.param M11=6.3456e-01
.param K12=2.4175e-12
.param L12=5.3681e-10
.param M12=9.4522e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GA342QR7GF681KW01

.SubCkt GA342DR7GF102KW02 [_net1] [_net2]
.param K01=1.1179e-09
.param M01=6.0000e+09
.param L02=2.0430e-10
.param M03=2.0542e-01
.param K04=1.4298e-08
.param M04=2.2210e+02
.param K05=2.8773e-07
.param M05=1.8438e+00
.param K06=1.9652e-07
.param M06=8.0988e-01
.param K07=5.1936e-08
.param M07=7.7488e-01
.param K08=1.2347e-08
.param M08=2.5659e-01
.param L09=2.3576e-10
.param M09=1.3202e+00
.param K10=4.5581e-09
.param L10=6.6339e-11
.param M10=5.3952e-01
.param K11=1.9124e-09
.param L11=4.0343e-11
.param M11=4.3780e-01
.param K12=2.1051e-12
.param L12=5.8872e-10
.param M12=7.3388e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GA342DR7GF102KW02
